US07943629B2
(RS)—S-(3-{[5-Bromo-4-(isopropylamino)pyrimidin-2-yl]amino}phenyl)-S-methyl-N-(tolylsulphonyl)sulphimide
In analogy to Example 1, 0.15 g (0.42 mmol) of 5-bromo-N4-isopropyl-N2-(3-methylsulphanylphenyl)pyrimidine-2,4-diamine is reacted with 0.132 g (0.47 mmol) of chloramine-T trihydrate in 3.0 ml of acetonitrile (24 hours). Purification by chromatography (silica gel, ethyl acetate/hexane with ethyl acetate 0-100%, then ethyl acetate/methanol with methanol 5-10% results in 0.14 g (63% of theory) of the product.

reactant | 5-bromo-N4-isopropyl-N2-(3-methylsulphanylphenyl)pyrimidine-2,4-diamine | 0.42 mmol, 0.15 g | BrC=1C(=NC(=NC1)NC1=CC(=CC=C1)SC)NC(C)C | C14H17BrN4S
reactant | chloramine-T trihydrate | 0.47 mmol, 0.132 g | CC1=CC=C(C=C1)S(=O)(=O)[N-]Cl.O.O.O.[Na+]
reactant | acetonitrile | 3.0 ml | C(C)#N | C2H3N
product | (RS)—S-(3-{[5-Bromo-4-(isopropylamino)pyrimidin-2-yl]amino}phenyl)-S-methyl-N-(tolylsulphonyl)sulphimide | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)S(=NS(=O)(=O)C1=C(C=CC=C1)C)C)NC(C)C | C21H24BrN5O2S2
